US07399759B2
2-(6-Phenoxy-2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (0.34 g, 2.0 mmol), 2-cyano-6-phenoxypyridine (0.40 g, 2.0 mmol), triethylamine (0.45 ml, 3.1 mmol) and toluene (30 ml) was refluxed for 48 hrs as described in Example 1. After cooling, the precipitated crystals were collected by filtration and recrystallized from ethanol to give the titled compound (0.18 g, 26%) as crystals.

reactant | methyl thiosalicylate | 2.0 mmol, 0.34 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-cyano-6-phenoxypyridine | 2.0 mmol, 0.40 g | C(#N)C1=NC(=CC=C1)OC1=CC=CC=C1 | C12H8N2O
reactant | triethylamine | 3.1 mmol, 0.45 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(6-Phenoxy-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.18 g, 26% | O(C1=CC=CC=C1)C1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C19H12N2O2S
